US03973038
Salicylic acid (1.38 g.) and 2-chloro-4-aminophenol (1.44 g.) were dissolved in acetonitrile (130 ml.), to which with stirring was added as a dehydrating agent dicyclohexyl carbodiimide (1.88 g.) and stirring was continued for about an hour. The precipitated dicyclohexylurea was filtered off, rinsed with warm acetone (90 ml.), and the filtrate and the rinse were combined and evaporated to dryness under reduced pressure. A light brown powder (2.57 g.) of 3'-chloro-2,4'-dihydroxybenzanilide was obtained which was purified through column chromatography using silica-gel (Mallinkrodt Co., U.S.A.) and an ethyl acetate-methanol mixture as the elution solvent system to give needle-like crystals (0.18 g.) of 3'-chloro-2,4'-dihydroxybenzanilide. Yield: 7%. The melting point: 172.5° 173.5° C.

reactant | Salicylic acid | 1.38 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | 2-chloro-4-aminophenol | 1.44 g | ClC1=C(C=CC(=C1)N)O | C6H6ClNO
reactant | dicyclohexyl carbodiimide | 1.88 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 130 ml | C(C)#N | C2H3N
product | 3'-chloro-2,4'-dihydroxybenzanilide | 2.57 g | ClC=1C=C(NC(C2=C(C=CC=C2)O)=O)C=CC1O | C13H10ClNO3
